US06355653B1
To a suspension of 1.39 g (0.03 mol) sodiumhydride in 40 ml tetrahydrofurane and 40 ml dimethylformamide were added 10.13 g (0.03 mol) (cyanomethyl)triphenylphosphonium chloride. After sirring for 1 hour at room temperature a solution of 4.48 g (0.03 mol) 2-propyl-4-pyridinecarboxaldehyde in 15 ml tetrahydrofuran were added and stirring was continued for 15 hours. Then 10 ml methanol were added) the solvents were evaporated and the residue chromatographed on aluminiumoxide with dichloromethane to yield 2.42 g 3-(2-propyl-pyridin-4-yl)-acrylonitrile as yellow oil. MS m/e (%): 173 (M+H+, 100).

reactant | sodiumhydride | 0.03 mol, 1.39 g | [H-].[Na+]
reactant | (cyanomethyl)triphenylphosphonium chloride | 0.03 mol, 10.13 g | [Cl-].C(#N)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-propyl-4-pyridinecarboxaldehyde | 0.03 mol, 4.48 g | C(CC)C1=NC=CC(=C1)C=O | C9H11NO
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofurane | 40 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-(2-propyl-pyridin-4-yl)-acrylonitrile | 2.42 g | C(CC)C1=NC=CC(=C1)C=CC#N | C11H12N2
